US07915271B2
Step B: 2-fluoro-5-iodo-2′-methylbiphenyl-4-yl Methyl Ether
To a mixture of silver sulfate (0.34 g, 1.11 mmol), iodine (0.28 g, 1.11 mmol) in MeOH (10 ml) at room temperature, a solution of 2-fluoro-2′-methylbiphenyl-4-yl methyl ether from above (0.24 g, 1.11 mmol) in MeOH (5 ml) was added dropwise. The mixture was stirred at room temperature for 4 h until the color turned to light yellow. The solid was filtered off and the filtrate was concentrated. The residue was purified via flash column using hexane as the eluant to give the title compound.

reactant | iodine | 1.11 mmol, 0.28 g | II | I2
reactant | 2-fluoro-2′-methylbiphenyl-4-yl methyl ether | COC1=CC(=C(C=C1)C1=C(C=CC=C1)C)F | C14H13FO
solvent | MeOH | 10 ml | CO | CH4O
solvent | MeOH | 5 ml | CO | CH4O
catalyst | silver sulfate | 1.11 mmol, 0.34 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-fluoro-5-iodo-2′-methylbiphenyl-4-yl Methyl Ether | COC1=CC(=C(C=C1I)C1=C(C=CC=C1)C)F | C14H12FIO
